US04849511
To a solution of 1 g of succinimidyl-N-(S-benzoylmercaptoacetyl)glycinate in 25 ml of anhydrous ethanol at 70° C. is added in one portion a solution of 203 mg of D-alanylglycylglycine in 10 ml of water at 70° C. The reaction mixture is refluxed for 1 hour and the solvents are evaporated under reduced pressure. The residue is agitated with 5 portions of 25 ml acetone, which is isolated by filtration. The combined filtrates are treated with diethylether until precipitation is complete. The precipitate is filtered off, washed with diethylether and dried over P2O5 under vacuum to obtain 170 mg (47,7%) of S-benzoylmercaptoacetyl-d-alanylglycylglycine as a white powder, m.p. 167°-170° C. [α]D20 +22 (c=1 in methanol); nmr (DMSO-d6): δ 1.24 (3H, d, CH3), 3.88 (2H, s, CH2 --S), 3.74 (4H, d, 2×CH2 --N), 4.31 (1H, q, CH), 8.08 and 8.24 (each 1H, t, α-- and β--NH), 8.51 (1H, d, δ--NH), 7.5-8.04 (5H, complex, aromatic).

reactant | succinimidyl-N-(S-benzoylmercaptoacetyl)glycinate | 1 g | C1(CCC(N1N(CC(=O)[O-])C(CSC(C1=CC=CC=C1)=O)=O)=O)=O
reactant | D-alanylglycylglycine | 203 mg | N[C@H](C)C(=O)NCC(=O)NCC(=O)O | C7H13N3O4
reactant | diethylether | C(C)OCC | C4H10O
solvent | ethanol | 25 ml | C(C)O | C2H6O
solvent | water | 10 ml | O | H2O
product | S-benzoylmercaptoacetyl-d-alanylglycylglycine | 170 mg, 47,7% | C(C1=CC=CC=C1)(=O)SCC(=O)N[C@H](C)C(=O)NCC(=O)NCC(=O)O | C16H19N3O6S
